US07601702B2
3′-Fluoro-5′-O-tert-Butyidiphenylsilyl-2′,3′-dideoxyuridine (19)
The title compound was synthesised following a similar procedure as described for Example 12. 3′-Fluoro-2′,3′-dideoxyuridine (0.176 g, 0.77 mmol) was reacted with tert-butyldiphenylsilyl chloride (0.238 g, 0.87 mmol) and imidazole (0.116 g, 1.70 mmol) in dry DMF (4 mL) for 3 h. Compound WSP948 was obtained as a white solid (0.331 g, 92%).

reactant | 3′-Fluoro-2′,3′-dideoxyuridine | 0.77 mmol, 0.176 g | F[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O4
reactant | tert-butyldiphenylsilyl chloride | 0.87 mmol, 0.238 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 1.70 mmol, 0.116 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3′-Fluoro-5′-O-tert-Butyidiphenylsilyl-2′,3′-dideoxyuridine | F[C@H]1C[C@@H](O[C@@H]1CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)N1C(=O)NC(=O)C=C1 | C25H29FN2O4Si
